US07365064B2
3-(3,4-Dihydro-2H-benzo[b][1,4]oxazin-4-yl)propyl bromide
A mixture of 3,4-dihydro-2H-benzo[b][1,4]oxazine (3.0 g, 1 eq, 22.2 mmol), 1,3-dibromopropane (22.5 ml, 10 eq, 222 mmol) and anhydrous sodium carbonate (7.05 g, 3 eq, 66.6 mmol) in dry DMF (200 ml) was heated at 70° C. for 16 h. The reaction mixture was diluted with ethyl acetate and washed with water and brine. The residue was chromatographed using ethyl acetate and hexane to yield the title compounds as liquid mass (2.6 g, 47%).

reactant | 3,4-dihydro-2H-benzo[b][1,4]oxazine | 22.2 mmol, 3.0 g, 1 eq | O1C2=C(NCC1)C=CC=C2 | C8H9NO
reactant | 1,3-dibromopropane | 222 mmol, 22.5 ml, 10 eq | BrCCCBr | C3H6Br2
reactant | sodium carbonate | 66.6 mmol, 7.05 g, 3 eq | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(3,4-Dihydro-2H-benzo[b][1,4]oxazin-4-yl)propyl bromide | O1C2=C(N(CC1)CCCBr)C=CC=C2 | C11H14BrNO
